US08026367B2
To a solution of ethyl 4-chlorobutyrate (0.5 g, 3.32 mmol) in DMF (2 mL), piperidine (0.98 mL, 9.96 mmol), triethylamine (1.4 mL, 9.96 mmol) and a catalytic amount of KI were added and the resulting solution was refluxed overnight. After cooling at room temperature the solution was diluted with a saturated solution of NaHCO3 (10 mL) and extracts with Et2O (3×10 mL). The collected organic extracts were dried over Na2SO4, filtered and evaporated under vacuum to give the ethyl 4-piperidin-1-ylbutanoate as an oily residue (0.6 g, 3 mmol) pure enough for the next step. To a solution of the ester in dioxane (5 mL), few drops of 37% HCl were added and the solution was refluxed overnight. After cooling at room temperature the solvent was evaporated under vacuum and the residue was dried overnight in oven at 60° C. in vacuo. The crude 4-piperidin-1-ylbutanoic acid was dissolved in CH3OH (4 mL) and NaHCO3 (0.5 g, 6 mmol) was added. After stirring for 2 h, the precipitate was filtered off and the mother liquors concentrated to afford the intermediate sodium 4-piperidin-1-ylbutanoate (0.55 g, 2.84 mmol) as a colourless oil. 1H-NMR (DMSO-d6) δ 3.35 (m, 2H), 2.80 (m, 2H), 2.70 (m, 2H), 2.15 (t, 2H, J=3 Hz), 1.95 (m, 2H), 1.75 (m, 6H).

reactant | ethyl 4-chlorobutyrate | 3.32 mmol, 0.5 g | ClCCCC(=O)OCC | C6H11ClO2
reactant | piperidine | 9.96 mmol, 0.98 mL | N1CCCCC1 | C5H11N
reactant | triethylamine | 9.96 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | Et2O | 10 mL | CCOCC | C4H10O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | ethyl 4-piperidin-1-ylbutanoate | N1(CCCCC1)CCCC(=O)OCC | C11H21NO2
